US06211199B1
23.4 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine (0.43 g, 1.50 mmol), (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.74 g, 1.46 mmol), and N,N-diisopropylethylamine (0.39 g, 3.0 mmol) in acetonitrile (10 mL). Heat to reflux. After 12 hours, dilute the reaction mixture with ethyl acetate and extract twice with water. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 10% methanol/ethyl acetate/2% triethylamine. Combine the product containing fractions and evaporate in vacuo to give a residue. Combine the residue and dichloromethane and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-methanesulfonyloxypropyl)-2-oxopyrrolidine | 1.50 mmol, 0.43 g | COC=1C=C(CN2C(C(CC2)(CCCOS(=O)(=O)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C25H32FNO7S
reactant | (1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 1.46 mmol, 0.74 g | C(C)OCCN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C16H24N4O
reactant | N,N-diisopropylethylamine | 3.0 mmol, 0.39 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzyl)-3-(3-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)propyl)-3-(4-fluorophenylmethyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CC2=CC=C(C=C2)F)CCCN2CCC(CC2)NC2=NC3=C(N2CCOCC)C=CC=C3)=O)C=C(C1OC)OC | C40H52FN5O5
